US06372770B1
(b) 5-Chloro-2-(2-chlorophenyl)-7-(3-hydroxy-propyl)-benzoxazole
A suspension of 11.07 g (34.8 mmol) of 5-chloro-2-(2-chlorophenyl)-7-(3-hydroxy-1-propynyl)-benzoxazole in 120 ml of ethyl acetate was treated with 3.70 g of neutral Raney-nickel. After the hydrogen uptake ceased, the nickel was filtered off and washed, and the solution evaporated in vacuo. Crystallization from dichloromethane/di-isopropyl ether gave the title compound in two crops (6.12 g (54.6%) and 1.61 g (14.4%)), mp 82-4° C.

reactant | 5-chloro-2-(2-chlorophenyl)-7-(3-hydroxy-1-propynyl)-benzoxazole | 34.8 mmol, 11.07 g | ClC=1C=C(C2=C(N=C(O2)C2=C(C=CC=C2)Cl)C1)C#CCO | C16H9Cl2NO2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney-nickel | 3.70 g | [Ni] | Ni
product | 5-Chloro-2-(2-chlorophenyl)-7-(3-hydroxy-propyl)-benzoxazole | ClC=1C=C(C2=C(N=C(O2)C2=C(C=CC=C2)Cl)C1)CCCO | C16H13Cl2NO2
